US08030302B2
5-(2-Fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylic acid
To a solution of ethyl-5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylate (22 g, 51.2 mmol) in THF (60 mL) and MeOH (60 mL) and H2O (10 mL) is added LiOH (3 g, 125 mmol). The resulting solution is stirred at RT for 1.5 hours and the organic solvents are removed. The aqueous residue is acidified with cold 6N HCl to pH 2, and extracted with EtOAc (150 mL). The organic phase is separated, dried, and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc:acetic acid (100:100:1) to afford the product (19.5 g, 95% yield). MS (m/z): 402.1 (M+H).

reactant | ethyl-5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylate | 51.2 mmol, 22 g | C(C)OC(=O)C1=C(C=C2C=NN(C2=C1)C1OCCCC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C21H20FN3O6
reactant | LiOH | 125 mmol, 3 g | [Li+].[OH-]
reactant | EtOAc acetic acid | CCOC(=O)C.C(C)(=O)O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | 60 mL | CO | CH4O
solvent | H2O | 10 mL | O | H2O
product | 5-(2-Fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylic acid | 19.5 g, 95% yield | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)O)C2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C19H16FN3O6
